US07414076B2
Preparation of 3-(tert-amyl)amino-1-propanesulfonic acid (Compound DG)
To a solution of tert-amylamine (2.0 g, 23.3 mmol) in tetrahydrofuran (15 mL) was added 1,3-propane sultone (2.76 g, 22.2 mmol). The solution was stirred at reflux for 2 hours. The reaction mixture was cooled to room temperature. The solid product was collected by filtration, washed with acetone (2×25 mL), and dried in vacuo, to afford compound DG (3.3 g, 73%): 1H NMR (D2O, 500 MHz) δ ppm 3.04 (t, 2H, J=7.8 Hz), 2.89 (t, 2H, J=7.8 Hz), 2.87 (t, 2H, J=7.3 Hz), 1.97 (m, 2H), 1.55 (m, 2H), 1.18 (s, 6H), 0.82 (t, 6H, J=7.3 Hz). 13C NMR (D2O, 125 MHz) δ ppm 60.42, 48.17, 39.88, 30.81, 22.23, 21.98, 7.25. ES-MS 208 (M−1).

reactant | tert-amylamine | 23.3 mmol, 2.0 g | C(C)(C)(CC)N | C5H13N
reactant | 1,3-propane sultone | 22.2 mmol, 2.76 g | C1COS(=O)(=O)C1 | C3H6O3S
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | 3-(tert-amyl)amino-1-propanesulfonic acid | C(C)(C)(CC)NCCCS(=O)(=O)O | C8H19NO3S
